US07012075B2
To an ice cold solution of methyl N-(4-bromo-3-methylisothiazol-5-yl)-L-leucinate (11.7 g, 36.4 mmol) in methanol (300 mL) was slowly added over 10 min a 2.0 M aqueous lithium hydroxide solution (75 mL, 150 mmol). The resulting cloudy solution was stirred at room temperature for 3 hours. Most of the methanol was removed under reduced pressure and the resulting aqueous suspension was partitioned between EtOAc and water+90 ml of 10% HCl. The organic layer was washed once with water, dried over Na2SO4 and concentrated in vacuo to give N-(4-bromo-3-methylisothiazol-5-yl)-L-leucine as a white solid.

reactant | methyl N-(4-bromo-3-methylisothiazol-5-yl)-L-leucinate | 36.4 mmol, 11.7 g | BrC=1C(=NSC1N[C@@H](CC(C)C)C(=O)OC)C | C11H17BrN2O2S
reactant | lithium hydroxide | 150 mmol, 2.0 M, 75 mL | [OH-].[Li+]
solvent | methanol | 300 mL | CO | CH4O
product | N-(4-bromo-3-methylisothiazol-5-yl)-L-leucine | BrC=1C(=NSC1N[C@@H](CC(C)C)C(=O)O)C | C10H15BrN2O2S
